US05232945
D. Sodium 2-Benzyloxy-3-[-2-(4-benzyloxybenzyl)-3,4-dihydro-2H-benzopyran-6-yl]propanoate
A mixture of 2-benzyloxy-3-[2-(4-benzyloxybenzyl)-3,4-dihydro-2H-benzopyran-6-yl]propanenitrile (0.23 g, 0.47 mmol), ethanol (10 ml) and 6N sodium hydroxide (2 ml) was heated to reflux for 5 hours. Water (50 ml) was added and the solution was acidified with concentrated hydrochloric acid (2 ml), then extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated to an oil (0.19 g). The product was dissolved in methanol and treated with sodium methoxide (21 mg). The solvent was removed and the solid dried (7 mg, mp 165°-169° C.).

reactant | 2-benzyloxy-3-[2-(4-benzyloxybenzyl)-3,4-dihydro-2H-benzopyran-6-yl]propanenitrile | 0.47 mmol, 0.23 g | C(C1=CC=CC=C1)OC(C#N)CC=1C=CC2=C(CCC(O2)CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1 | C33H31NO3
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 6N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | Water | 50 ml | O | H2O
product | Sodium 2-Benzyloxy-3-[-2-(4-benzyloxybenzyl)-3,4-dihydro-2H-benzopyran-6-yl]propanoate | C(C1=CC=CC=C1)OC(C(=O)[O-])CC=1C=CC2=C(CCC(O2)CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1.[Na+] | InChI=1S/C33H32O5.Na/c34-33(35)32(37-23-26-9-5-2-6-10-26)21-27-13-18-31-28(19-27)14-17-30(38-31)20-24-11-15-29(16-12-24)36-22-25-7-3-1-4-8-25;/h1-13,15-16,18-19,30,32H,14,17,20-23H2,(H,34,35);/q;+1/p-1
